US08372823B2
2-(3-(Benzyloxy)phenoxy)-1-(5-(pyridin-2-yl)oxazol-2-yl)ethanone (11d)
The title compound was prepared from 5-(2-pyridyl)oxazole and 2-(3-(benzyloxy)phenoxy)acetic acid (Baker, B. R.; Neenan, J. P. J. Med. Chem. 1972, 15, 940-944) using General Procedure B. Column chromatography (SiO2, 2.5×6 cm, 20-40% EtOAc-hexanes gradient) followed by PTLC (SiO2, 50% EtOAc-hexanes) afforded 11d (26 mg, 0.07 mmol, 7%) as a pale yellow solid: 1H NMR (CDCl3, 500 MHz) 8.70 (app d, 1H, J=4.0 Hz), 8.03 (d, 1H, J=8.1 Hz), 7.86 (td, 1H, J=7.7, 1.5 Hz), 7.55-7.52 (m, 1H), 7.45-7.32 (m, 6H), 7.22 (t, 1H, J=8.2 Hz), 6.68 (dd, 1H, J=8.2, 2.4 Hz), 6.61 (t, 1H, J=2.2 Hz), 6.54 (dd, 1H, J=7.8, 2.5 Hz), 5.45 (s, 2H), 5.06 (s, 2H); 13C NMR (CDCl3, 100 MHz) 192.7, 169.7, 162.1 (2C), 158.3, 151.5, 149.2, 137.0, 136.7, 130.3, 128.6, 128.0, 127.5, 122.2, 106.9 (2C), 102.1, 70.1, 67.9; ESI-TOF m/z 387.1349 (C23H19N2O4+H+ requires 387.1345).

reactant | 5-(2-pyridyl)oxazole | N1=C(C=CC=C1)C1=CN=CO1 | C8H6N2O
reactant | 2-(3-(benzyloxy)phenoxy)acetic acid | C(C1=CC=CC=C1)OC=1C=C(OCC(=O)O)C=CC1 | C15H14O4
product | 2-(3-(Benzyloxy)phenoxy)-1-(5-(pyridin-2-yl)oxazol-2-yl)ethanone | 0.07 mmol, 26 mg, 7% | C(C1=CC=CC=C1)OC=1C=C(OCC(=O)C=2OC(=CN2)C2=NC=CC=C2)C=CC1 | C23H18N2O4
